US06953790B2
Step C. N-[(Benzyloxy)carbonyl]-O-{(1S)-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]-1-phenylethyl}-D-serine
Aqueous sodium hydroxide (1N; 3.81 mL, 3.81 mmol) was added to a solution of methyl N-[(benzyloxy)carbonyl]-O-{(1S)-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]-1-phenylethyl}-D-serinate (1.30 g, 2.46 mmol) in tetrahydrofuran (20 mL). After 18 h, aqueous hydrochloric acid (1N; 3.81 mL, 3.81 mmol) was added. The mixture was extracted with dichloromethane (3×), and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated to give the title compound. (1.27 g) MS 535 (M+Na).

reactant | sodium hydroxide | 3.81 mmol, 1N, 3.81 mL | [OH-].[Na+]
reactant | methyl N-[(benzyloxy)carbonyl]-O-{(1S)-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]-1-phenylethyl}-D-serinate | 2.46 mmol, 1.30 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CO[C@H](CN(CC1CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(=O)OC | C29H38N2O7
reactant | hydrochloric acid | 3.81 mmol, 1N, 3.81 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[(Benzyloxy)carbonyl]-O-{(1S)-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]-1-phenylethyl}-D-serine | C(C1=CC=CC=C1)OC(=O)N[C@H](CO[C@H](CN(CC1CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(=O)O | C28H36N2O7
